US08871756B2
Methyl 4-fluoro-2-sulfanylbenzoate
A mixture of 4-fluoro-2-sulfanylbenzoic acid (6.0 g, 34.9 mmol), concentrated sulfuric acid (6 mL) in methanol (200 mL) was refluxed for 18 hours under argon atmosphere. The resulting mixture was concentrated in vacuo. The residue was diluted with ethyl acetate, washed with water, basified with a saturated aqueous solution of sodium bicarbonate to about pH 8. The organic layer was washed with brine, dried over sodium sulfate, and concentrated in vacuo to afford 4.54 g of the crude product as a brown oil (yield was 70%), which was used directly for the next step without further purification. MS obsd. (ESI−) [(M−H)−] 185.

reactant | 4-fluoro-2-sulfanylbenzoic acid | 34.9 mmol, 6.0 g | FC1=CC(=C(C(=O)O)C=C1)S | C7H5FO2S
reactant | sulfuric acid | 6 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 200 mL | CO | CH4O
product | Methyl 4-fluoro-2-sulfanylbenzoate | 4.54 g, yield was 70% | FC1=CC(=C(C(=O)OC)C=C1)S | C8H7FO2S
